US04678781
The starting material may be obtained as follows. A solution of 2,6-dicarboxy-4-pyrone (10.0 g.) and cyclopropylamine (3.8 ml.) in MeOH (300 ml.) was stirred at room temperature overnight. The precipitated salt was filtered off, dried under vacuum and heated to 200° for 30 minutes. The resulting black gum was extracted with methylene chloride (3×150 ml.). The extracts were concentrated and purified by chromatography on Kieselgel 60 (100 g.) using methylene chloride/MeOH 100:0 to 80:20 v/v to give 1-cyclopropyl-4-pyridone (1.26 g.) as an oil having n.m.r. in CDCl3 : 1.03(m, 4H); 3.38(m, 1H); 6.3(d, 2H); 7.4(d, 2H). This material was chlorinated as described in the second part of Example 56 to give 4-chloro-1-cyclopropylpyridinium toluene-p-sulphonate.

reactant | 2,6-dicarboxy-4-pyrone | 10.0 g | C(=O)(O)C=1OC(=CC(C1)=O)C(=O)O | C7H4O6
reactant | cyclopropylamine | 3.8 ml | C1(CC1)N | C3H7N
solvent | MeOH | 300 ml | CO | CH4O
product | 1-cyclopropyl-4-pyridone | 1.26 g | C1(CC1)N1C=CC(C=C1)=O | C8H9NO
